US04423064
A 250 milliliter flask was equipped with a magnetic stirrer, reflux condenser and nitrogen inlet. The flask was dried with external heat and then charged with 19.92 grams (0.22 mol) of 3-chloro-1-butyne, 30.49 grams (0.15 mol) of 1-trimethylsilyloxy-1-ethoxy-3-methylbutene prepared in Part A, 100 milliliters of dry methylene chloride, and 0.5 grams of anhydrous zinc chloride. The reaction mixture was stirred at room temperature and monitored by infrared for 48 hours. The disappearance of the ketene acetal C=C peak at 1675 cm-1 and the appearance of an ester C=O peak at 1720 cm-1 was observed. The reaction mixture was then worked up by diluting with 150 milliliters of methylene chloride and washing five times with 100 milliliters of 5% sodium bicarbonate and twice with water. The methylene chloride was dried (MgSO4) and removed under vacuum to give a residue. The residue was vacuum distilled through a vigreux column to give 8.44 grams (0.05 mol) of ethyl 2-isopropyl-3-methyl-4-pentynoate having the appearance of a colorless oil and a boiling point of 66°-76° C. at 7 millimeters pressure.

reactant | 3-chloro-1-butyne | 0.22 mol, 19.92 grams | ClC(C#C)C | C4H5Cl
reactant | 1-trimethylsilyloxy-1-ethoxy-3-methylbutene | 0.15 mol, 30.49 grams | C[Si](OC(=CC(C)C)OCC)(C)C | C10H22O2Si
reactant | ester C | C([C@@H]([C@@H]1C(=C(C(=O)O1)O)O)O)O | C6H8O6
solvent | methylene chloride | 150 milliliters | C(Cl)Cl | CH2Cl2
catalyst | zinc chloride | 0.5 grams | [Cl-].[Zn+2].[Cl-]
solvent | methylene chloride | 100 milliliters | C(Cl)Cl | CH2Cl2
product | ethyl 2-isopropyl-3-methyl-4-pentynoate | 0.05 mol, 8.44 grams | C(C)(C)C(C(=O)OCC)C(C#C)C | C11H18O2
